US09388161B2
A 500-mL round-bottom flask was charged with 1-benzhydryl-2-methylazetidin-3-ol (15.0 g, 59.2 mmol), dichloromethane (30 mL), and N,N-diisopropylamine (21 mL, 160 mmol), and the solution was cooled to 0° C. A solution of methanesulfonyl chloride (6.2 mL, 77 mmol) in dichloromethane (10 mL) was added, and the resulting solution stirred overnight at room temperature. The reaction mixture was poured into 200 mL of water, and the aqueous phase was separated and extracted with dichloromethane (2×100 mL). The combined organic layers were washed with brine (2×100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 20:1, dichloromethane-ethyl acetate). The product was further purified by re-crystallization from hexane to afford 1-benzhydryl-2-methylazetidin-3-yl methanesulfonate (5.6 g, 29%) as a white solid. MS (ESI, pos. ion) m/z 332 [M+H]+.

reactant | 1-benzhydryl-2-methylazetidin-3-ol | 59.2 mmol, 15.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C(C1)O)C | C17H19NO
reactant | N,N-diisopropylamine | 160 mmol, 21 mL | C(C)(C)NC(C)C | C6H15N
reactant | methanesulfonyl chloride | 77 mmol, 6.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-benzhydryl-2-methylazetidin-3-yl methanesulfonate | 5.6 g, 29% | CS(=O)(=O)OC1C(N(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H21NO3S
